US06492301B1
3,6-dichloro-o-anisic acid
used, inter alia, as dicamba-dimethylammonium, dicamba-potassium, dicamba-sodium, dicamba-trolamine,

reactant | dicamba-dimethylammonium | CNC.COC1=C(C=CC(=C1C(=O)O)Cl)Cl
reactant | dicamba-potassium | COC1=C(C=CC(=C1C(=O)[O-])Cl)Cl.[K+]
reactant | dicamba-sodium | COC1=C(C=CC(=C1C(=O)[O-])Cl)Cl.[Na+]
reactant | dicamba-trolamine | COC1=C(C=CC(=C1C(=O)O)Cl)Cl.C(CO)N(CCO)CCO
product | 3,6-dichloro-o-anisic acid | ClC1=C(C(C(=O)O)=C(C=C1)Cl)OC | C8H6Cl2O3
